US08377895B2
Preparation of 5,6,7-trihydroxy-8-((4-hydroxypiperidin-1-yl)methyl)-2-phenyl-4H-chromen-4-one [Hydroxypiperidin Baicalein]
The mixture of Baicalein (27 g), methanol (350 ml), 37% formaldehyde solution (8.04 ml), 4-hydroxy-piperidine (10.2 g) was stirred under for 4 hours at 51° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 55° C. to get the product as yellow solid 37.02 g of purity 99.2%. m.p.: 221° C. MS: (API-ES) m/z 384.2[M+H]+, 767.5[2M+H]+, 789.5 [2M+Na]+; 1H NMR (DMSO-d6, 400 MHz): δ 8.05˜8.07 (m, 2H, Ar-2′,6′-H), 7.58˜7.59 (m, 3H, Ar-3′,4′,5′-H), 6.87 (s, 1H, 3-H), 4.17 (s, 2H, CH2), 3.67 (m, 1H, CH), 2.68, 3.03 (m, 2H, CH2), 2.71, 3.05 (m, 2H, CH2), 1.52, 1.82 (m, 2H, CH2), 1.53, 1.84 (m, 2H, CH2).

reactant | Baicalein | 27 g | C=1C=CC(=CC1)C2=CC(=O)C=3C(=CC(=C(C3O)O)O)O2 | C15H10O5
reactant | formaldehyde | 8.04 ml | C=O | CH2O
reactant | 4-hydroxy-piperidine | 10.2 g | OC1CCNCC1 | C5H11NO
solvent | methanol | 350 ml | CO | CH4O
product | 5,6,7-trihydroxy-8-((4-hydroxypiperidin-1-yl)methyl)-2-phenyl-4H-chromen-4-one | 37.02 g | OC1=C2C(C=C(OC2=C(C(=C1O)O)CN1CCC(CC1)O)C1=CC=CC=C1)=O | C21H21NO6
